US08648084B2
5-bromo-N-(2-methylbenzyl)nicotinamide
Prepared from 5-bromonicotinic acid and 2-methylbenzylamine using procedures as described in Example 1H. MS (APCI) m/z 305, 307 (M+H)+.

reactant | 5-bromonicotinic acid | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | 2-methylbenzylamine | CC1=C(CN)C=CC=C1 | C8H11N
product | 5-bromo-N-(2-methylbenzyl)nicotinamide | BrC=1C=NC=C(C(=O)NCC2=C(C=CC=C2)C)C1 | C14H13BrN2O
